US06069157
5-Amino-4-(3-aminophenyl)-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole
To a rapidly stirred solution of 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-iodopyrazole (0.447 g) in toluene (2 ml) containing tetrakis(triphenylphosphine)palladium(0) (0.02 g) was added saturated aqueous sodium hydrogen carbonate solution (1 ml) and a solution of 3-aminophenylboronic acid (0.310 g) in ethanol (1 ml). The mixture was heated under reflux for 3 hours, then left at room temperature overnight. Saturated aqueous sodium hydrogen carbonate solution (0.5 ml) and tetrakis(triphenylphosphine)palladium(0) (0.01 g) were added and the mixture heated under reflux for 3 hours. The cooled reaction mixture was then poured into ether (25 ml) and water (25 ml). The organic layer was separated, dried (MgSO4) and evaporated. The residue was purified by column chromatography on silica gel (40 g) eluted with dichloromethane methanol (0→1%). Combination and evaporation of suitable fractions gave the title compound as a pale brown crystalline solid, m.p. 187° C.

reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-iodopyrazole | 0.447 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)I | C11H4Cl2F3IN4
reactant | sodium hydrogen carbonate | 1 ml | C(O)([O-])=O.[Na+]
reactant | 3-aminophenylboronic acid | 0.310 g | NC=1C=C(C=CC1)B(O)O | C6H8BNO2
reactant | sodium hydrogen carbonate | 0.5 ml | C(O)([O-])=O.[Na+]
reactant | ether | 25 ml | CCOCC | C4H10O
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.02 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.01 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 25 ml | O | H2O
product | 5-Amino-4-(3-aminophenyl)-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C1=CC(=CC=C1)N | C17H10Cl2F3N5
